US07304081B2
Step 1. 5-bromopyridine-2-carboxylic acid
Lithium hydroxide, monohydrate (0.39 g, 0.0092 mol) was added to a mixture of 5-bromopyridine-2-carboxylic acid methyl ester (0.25 g, 0.0012 mol) in tetrahydrofuran (4.8 mL, 0.059 mol) and water (2.0 mL) and the reaction mixture was refluxed for 30 minutes. The reaction mixture was concentrated and was adjusted to be acidic (pH=˜4) by adding 1 N HCl. The product was extracted with ethyl acetate and the combined extract was concentrated to give the desired product. LC-MS: 202.0/204.0 (M+H+)

reactant | Lithium hydroxide, monohydrate | 0.0092 mol, 0.39 g | O.[OH-].[Li+]
reactant | 5-bromopyridine-2-carboxylic acid methyl ester | 0.0012 mol, 0.25 g | COC(=O)C1=NC=C(C=C1)Br | C7H6BrNO2
reactant | tetrahydrofuran | 0.059 mol, 4.8 mL | O1CCCC1 | C4H8O
solvent | water | 2.0 mL | O | H2O
product | 5-bromopyridine-2-carboxylic acid | BrC=1C=CC(=NC1)C(=O)O | C6H4BrNO2
